US07491718B2
1H-benzo[e]indole-1,2(3H)-dione
A mixture of 2-naphthylamine (8.0 g, 56 mmol) in glacial acetic acid (500 mL) was treated with diethyl ketomalonate (9.2 mL, 62 mmol), heated to 120° C. for 4 hours, and concentrated. The concentrate was suspended in a solution of KOH (36.8 g, 690 mmol) in water (736 mL) and stirred overnight with a stream of air blowing into the solution. The resulting mixture was filtered and the filtrate was adjusted to approximately pH 3 with concentrated HCl. The resulting suspension was cooled to 0° C. and filtered. The filter cake was dried under vacuum to provide the desired product (8.76 g, 79%). MS (DCI) m/e 198 (M+H)+, 215 (M+NH4)+.

reactant | 2-naphthylamine | 56 mmol, 8.0 g | C1=C(C=CC2=CC=CC=C12)N | C10H9N
reactant | diethyl ketomalonate | 62 mmol, 9.2 mL | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | KOH | 690 mmol, 36.8 g | [OH-].[K+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | water | 736 mL | O | H2O
product | 1H-benzo[e]indole-1,2(3H)-dione | 8.76 g, 79% | C1(C(NC=2C=CC3=C(C12)C=CC=C3)=O)=O | C12H7NO2
